US07713979B2
1-Cyclohexyl-4-hydroxymethyl-pyrrolidin-2-one
Place 2-methylene-succinic acid (12.0 g, 92.2 mmol) and cyclohexylamine (9.15 g, 92.2 mmol) and heat to 160° C. for hours. Cool to give 18.8 g (96%) of 1-cyclohexyl-5-oxo-pyrrolidine-3-carboxylic acid. Charge a flask with 1-cyclohexyl-5-oxo-pyrrolidine-3-carboxylic acid (16.2 g, 76.7 mmol), add methylene chloride (20 mL) and cool to 0° C. Slowly add borane in THF (1M, 115.1 mL, 115.1 mmol) and stir for two hours at 0° C. Quench the reaction with ice and extract with methylene chloride. Dry over sodium sulfate, filter, and concentrate. Purify by silica gel (1-5% methanol in methylene chloride) to yield 9.9 g (65%) of the title compound: Mass spectrum (apci) m/z=198.1 (M+H).

reactant | 1-cyclohexyl-5-oxo-pyrrolidine-3-carboxylic acid | 76.7 mmol, 16.2 g | C1(CCCCC1)N1CC(CC1=O)C(=O)O | C11H17NO3
reactant | borane | B | BH3
reactant | THF | 115.1 mmol, 1M, 115.1 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-Cyclohexyl-4-hydroxymethyl-pyrrolidin-2-one | 9.9 g, 65% | C1(CCCCC1)N1C(CC(C1)CO)=O | C11H19NO2
